US05665718
2.5 g of potassium carbonate and 0.48 ml (4.1 mmol) of dimethylallyl bromide were added to a solution of 660 mg (2 mmol) of (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one in 20 ml of dimethylformamide and the mixture was stirred at room temperature for 12 hours. The reaction solution was subsequently filtered and the filtrate was partitioned between methylene chloride and water. The aqueous phase was back-extracted three times with methylene chloride; the combined organic phases were subsequently dried over sodium sulfate, filtered and evaporated. The residue obtained was chromatographed (silica gel, methylene chloride/methanol/aqueous ammonia 300:10:1) and there were obtained 650 mg (70%) of (S)-1-[5-[bis-(3-methyl-but-2-enyl)-aminomethyl]-1,2,4-oxadiazol-3-yl]-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one as a colourless foam, Rf=0.16 (silica gel, methylene chloride/methanol/aqueous ammonia 300:10:1).

reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylallyl bromide | 4.1 mmol, 0.48 ml | CC(=CCBr)C | C5H9Br
reactant | (S)-1-(5-aminomethyl-1,2,4-oxadiazol-3-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 2 mmol, 660 mg | NCC1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C14H12N6O2S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | (S)-1-[5-[bis-(3-methyl-but-2-enyl)-aminomethyl]-1,2,4-oxadiazol-3-yl]-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 650 mg, 70% | CC(=CCC(C1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1)(N)CC=C(C)C)C | C24H28N6O2S
